US08048897B2
(1) Synthesis of (2-Benzyloxyphenyl)-(3-fluoro-4-methoxyphenyl)methanol
In a nitrogen stream, an n-butyllithium hexane solution (1.54 M, 6.79 mL) was added dropwise to a solution of 1-benzyloxy-2-bromobenzene (2.5 g, 9.50 mmol) in THF (30 mL) at −78° C. and the mixture was stirred at the same temperature for 30 minutes. To this solution, a solution of 3-fluoro-4-methoxybenzaldehyde (1.32 g, 8.56 mmol) in THF (8 mL) was added dropwise at −78° C. The mixture was stirred at the same temperature for one hour, and then a saturated ammonium chloride aqueous solution was added thereto and the mixture was extracted with ethyl acetate, and the organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)] to obtain the title compound (2.79 g, 96%).

reactant | n-butyllithium hexane | 1.54 M, 6.79 mL | CCCCCC.C(CCC)[Li]
reactant | 1-benzyloxy-2-bromobenzene | 9.50 mmol, 2.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)Br | C13H11BrO
reactant | 3-fluoro-4-methoxybenzaldehyde | 8.56 mmol, 1.32 g | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (2-Benzyloxyphenyl)-(3-fluoro-4-methoxyphenyl)methanol | 2.79 g, 96% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC(=C(C=C1)OC)F | C21H19FO3
